US07067535B2
In 25 ml of methylene chloride were suspended 281 mg of (2S,3S)-2-phenylpiperidin-3-ylamine (2R,3R)-bis(4-methylbenzoyloxy)succinate, 115 mg of 2-methoxy-5-(4-fluorophenyl)benzaldehyde and 212 mg of sodium triacetoxyborohydride. This reaction mixture was stirred at room temperature under nitrogen atmosphere for 16 hours, and then, a saturated aqueous sodium hydrogen carbonate solution was added and the resulting mixture was extracted with chloroform. The organic layer was washed with brine, dried over anhydrous sodium sulfate and concentrated. The concentrated residue was purified by silica gel column chromatography (chloroform/methanol=10/1) to give a colorless oily product. This product was dissolved in ethyl acetate, and treated with an ethyl acetate solution containing 4N hydrochloric acid. Precipitated white crystal was collected by filtration, washed with ether and dried under reduced pressure to give 116 mg of [2-methoxy-5-(4-fluorophenyl)benzyl][(2S,3S)-2-phenylpiperidin-3-yl]amine dihydrochloride.

reactant | (2S,3S)-2-phenylpiperidin-3-ylamine (2R,3R)-bis(4-methylbenzoyloxy)succinate | 281 mg | CC1=CC=C(C(=O)O[C@H]([C@H](C(=O)O)OC(C2=CC=C(C=C2)C)=O)C(=O)O)C=C1.C1(=CC=CC=C1)[C@@H]1NCCC[C@@H]1N
reactant | 2-methoxy-5-(4-fluorophenyl)benzaldehyde | 115 mg | COC1=C(C=O)C=C(C=C1)C1=CC=C(C=C1)F | C14H11FO2
reactant | sodium triacetoxyborohydride | 212 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
reactant | hydrochloric acid | 4N | Cl | ClH
solvent | methylene chloride | 25 ml | C(Cl)Cl | CH2Cl2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | [2-methoxy-5-(4-fluorophenyl)benzyl][(2S,3S)-2-phenylpiperidin-3-yl]amine dihydrochloride | 116 mg | Cl.Cl.COC1=C(CN[C@@H]2[C@@H](NCCC2)C2=CC=CC=C2)C=C(C=C1)C1=CC=C(C=C1)F | InChI=1S/C25H27FN2O.2ClH/c1-29-24-14-11-20(18-9-12-22(26)13-10-18)16-21(24)17-28-23-8-5-15-27-25(23)19-6-3-2-4-7-19;;/h2-4,6-7,9-14,16,23,25,27-28H,5,8,15,17H2,1H3;2*1H/t23-,25-;;/m0../s1
